US05688789
2-(4-Fluorophenyl)-1-phenyl-1-ethanone-O-methyl oxime.
To a solution of 2-(4-fluorophenyl)-1-phenyl-1-ethanone (5 g, 30 mmol) in 30 ml pyridine under nitrogen was added methoxylamine hydrochloride (3.8 g, 45 mmol) at 25° C. The resulting mixture was stirred at 25° C. for 17 hours. The pyridine was removed in vacuo with heating. The residual solids were a mixture of the oxime geometrical isomers as a white syrup and it was used for the next step without further purification. Rf : 0.48, 0.70 (CH2C12).

reactant | 2-(4-fluorophenyl)-1-phenyl-1-ethanone | 30 mmol, 5 g | FC1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C14H11FO
reactant | methoxylamine hydrochloride | 45 mmol, 3.8 g | Cl.O(C)N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Fluorophenyl)-1-phenyl-1-ethanone-O-methyl oxime | CON=C(CC1=CC=C(C=C1)F)C1=CC=CC=C1 | C15H14FNO
